US05541348
A solution of 3α,7α,12α-triacetoxy-5β-cholanic acid-ethyl ester (5 mmol) in dry THF (100 ml) was cooled to -78° C. and lithium diisopropylamide (LDA, 5.98 g, 7.5 mmol) was added thereto. After 15 minutes, a solution of trans-2-(phenylsulfonyl)-3-phenyloxaziridine (Davis reagent, 2.06 g, 6.73 mmol) in THF (10 ml) was added. The mixture was stirred at -60° C. for 3 hours. Normal workup, followed by purification over silica gel gave two diastereomers of 3α,7α,12α-triacetoxy-23-hydroxy-5β-cholanic acid-ethyl ester. The absolute stereochemistry of the diastereomers was not determined.

reactant | 3α,7α,12α-triacetoxy-5β-cholanic acid-ethyl ester | 5 mmol | C(C)OC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)OC(C)=O)OC(C)=O)OC(C)=O)=O | C32H50O8
reactant | lithium diisopropylamide | 7.5 mmol, 5.98 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 3α,7α,12α-triacetoxy-23-hydroxy-5β-cholanic acid-ethyl ester | C(C)OC(C(C[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)OC(C)=O)OC(C)=O)OC(C)=O)O)=O | C32H50O9
